US06258824B1
(+)-6-[Amino-(6-chloro-pyridin-3-yl)-(3-methyl-3H-imidazol-4-yl)-methyl]-4-(3-chloro-phenyl)-1-cyclopropylmethyl-1H-quinolin-2-one, dihydrochloride salt
To a solution of (+)-6-[Amino-(6-chloro-pyridin-3-yl)-(3-methyl-3H-imidazol-4-yl)-methyl]-4-(3-chloro-phenyl)-1-cyclopropylmethyl-1H-quinolin-2-one (0.844 g, 1.59 mmol) in DCM (10 ml) was added a solution of HCl in ethyl ether (1M, 4.77 ml, 4.77 mmol). The slurry solution was stirred for 2 hours. After filtration, the title compound of example 56 was obtained as a white solid (0.78 g, 1.29 mmol, 81.4% yield).

reactant | (+)-6-[Amino-(6-chloro-pyridin-3-yl)-(3-methyl-3H-imidazol-4-yl)-methyl]-4-(3-chloro-phenyl)-1-cyclopropylmethyl-1H-quinolin-2-one | 1.59 mmol, 0.844 g | NC(C=1C=C2C(=CC(N(C2=CC1)CC1CC1)=O)C1=CC(=CC=C1)Cl)(C=1N(C=NC1)C)C=1C=NC(=CC1)Cl | C29H25Cl2N5O
reactant | HCl | Cl | ClH
reactant | ethyl ether | 4.77 mmol, 1M, 4.77 ml | C(C)OCC | C4H10O
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | (+)-6-[Amino-(6-chloro-pyridin-3-yl)-(3-methyl-3H-imidazol-4-yl)-methyl]-4-(3-chloro-phenyl)-1-cyclopropylmethyl-1H-quinolin-2-one, dihydrochloride salt | Cl.Cl.NC(C=1C=C2C(=CC(N(C2=CC1)CC1CC1)=O)C1=CC(=CC=C1)Cl)(C=1N(C=NC1)C)C=1C=NC(=CC1)Cl | InChI=1S/C29H25Cl2N5O.2ClH/c1-35-17-33-15-26(35)29(32,21-8-10-27(31)34-14-21)20-7-9-25-24(12-20)23(19-3-2-4-22(30)11-19)13-28(37)36(25)16-18-5-6-18;;/h2-4,7-15,17-18H,5-6,16,32H2,1H3;2*1H
